US06203785B1
Preparation of (3-chloropropyl)-dodecyldimethylammonium bromide
(4-Chlorobutyl)dodecyldimethylammonium bromide and (6-chlorohexyl)dodecyldimethylammonium bromide can be prepared by a similar process using the appropriate bromochloroalkane and dodecyldimethylamine.

reactant | (4-Chlorobutyl)dodecyldimethylammonium bromide | [Br-].ClCCCC[N+](C)(C)CCCCCCCCCCCC
reactant | (6-chlorohexyl)dodecyldimethylammonium bromide | [Br-].ClCCCCCC[N+](C)(C)CCCCCCCCCCCC
reactant | dodecyldimethylamine | C(CCCCCCCCCCC)N(C)C | C14H31N
product | (3-chloropropyl)-dodecyldimethylammonium bromide | [Br-].ClCCC[N+](C)(C)CCCCCCCCCCCC | InChI=1S/C17H37ClN.BrH/c1-4-5-6-7-8-9-10-11-12-13-16-19(2,3)17-14-15-18;/h4-17H2,1-3H3;1H/q+1;/p-1
